US04474963
A 2,000 mL, 3-necked flask equipped with a mechanical stirrer and thermometer was charged with 3-benzyloxy-2-hydroxypropyl chloride (353 g, 1.76 mol) and dichloromethane (1,000 mL). This mixture was stirred and cooled in an ice bath to ca. 5° C. Aqueous 50% NaOH (176 g) was added in portions while the temperature was kept under 30° C. After addition was complete, the reaction mixture was stirred 4 hours at 25° C. Water (1,000 mL) was added to dissolve the salts. The organic phase was separated from the aqueous phase, washed with ice water (3×500 mL), dried and reduced in vacuo to yield 263 g (92%) of pure 3-benzyloxy-1,2-epoxypropane.

reactant | 3-benzyloxy-2-hydroxypropyl chloride | 1.76 mol, 353 g | C(C1=CC=CC=C1)OCC(CCl)O | C10H13ClO2
reactant | dichloromethane | 1,000 mL | ClCCl | CH2Cl2
reactant | NaOH | 176 g | [OH-].[Na+]
solvent | Water | 1,000 mL | O | H2O
product | 3-benzyloxy-1,2-epoxypropane | 263 g, 92% | C(C1=CC=CC=C1)OCC1CO1 | C10H12O2
